Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][C:10]([C:7]([C:4]([O:3])([H:5])[H:6])([H:8])[H:9])([H:11])[H:12]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-4.55755088184
[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.27410966436
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],4.0999923672500005
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:4][C:5]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-3.24898326769
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11].[O:1],7.486172797130001
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-5.00484279127
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[O:8][H:9]>>[C:6]([H:7])[O:8][H:9].[H:1][C:2][O:3][C:4]#[C:5],5.48496026059
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14].[H:15],6.023748683180001
[H:1][C:2]([H:3])([C:4]([H:5])[H:6])[C:13]([C:10]([C:7]([H:8])[H:9])([H:11])[H:12])([H:14])[H:15]>>[H:1][C:2]1([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-3.58681636
[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.0639909772500005
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][H:8].[C:9]([H:10])([H:11])[H:12],1.68270065843
[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[H:8].[H:1][O:2][C@@:3]([H:4])([C:5]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],6.23256838801
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8].[H:9],5.41828992809
[H:12].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.52828102368
[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1][O:2][C:3][C:4]1([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-0.63288442568
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:8],1.90140130136
[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]#[C:9][H:10]>>[C:1]#[C:2][C:4]([H:5])([H:6])[C:7][C:8]#[C:9][H:10].[H:3],3.97668747171
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3][H:4],6.98059737217
[C:1]#[C:2][C:3]([H:4])[C:5][O:6][H:7]>>[C:1]#[C:2].[C:3]([H:4])#[C:5][O:6][H:7],3.64271328266
[C:9]([H:10])[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]=[O:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])[H:11],-2.51218170353
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17]>>[H:12].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:13]/[C:14]([H:15])([H:16])[H:17],1.7452411839300002
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2],5.19602259454
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6],0.939200028959
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[H:4].[O:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[H:9],2.44953581736
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.3567508692000003
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:11][H:12],1.73170138245
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],1.97441046252
[H:1][C:2]#[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.98393920556
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],4.36846953496
